US07667041B2
Synthesis of 2-amino-2-(4-fluorophenyl)propan-1-ol hydrochloric acid salt
To an ethyl acetate (1 mL) solution of (1-(4-fluorophenyl)-2-hydroxy-1-methylethyl)carbamic acid tertiary butyl ester (252 mg), 4 N hydrochloric acid ethyl acetate solution (3 mL) was added, and the reaction solution was agitated at room temperature for 3 hours. The reaction solution was concentrated under reduced pressure to obtain 192 mg of the title compound. The physical properties of the compound are as follows.

reactant | (1-(4-fluorophenyl)-2-hydroxy-1-methylethyl)carbamic acid tertiary butyl ester | 252 mg | C(C)(C)(C)OC(NC(CO)(C)C1=CC=C(C=C1)F)=O | C14H20FNO3
reactant | hydrochloric acid ethyl acetate | 4 N, 3 mL | C(C)OC(C)=O.Cl
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
product | 2-amino-2-(4-fluorophenyl)propan-1-ol hydrochloric acid salt | 192 mg | Cl.NC(CO)(C)C1=CC=C(C=C1)F | InChI=1S/C9H12FNO.ClH/c1-9(11,6-12)7-2-4-8(10)5-3-7;/h2-5,12H,6,11H2,1H3;1H
